US07632850B2
3.2. 3-[2-(4′-chloro-1,1′-biphenyl-4-yl)ethyl]-1,3-oxazolidine-2,4-dione
A 250 ml three-necked round-bottomed flask placed under an inert atmosphere is charged with 2 g (7.04 mmol) of 3-[2-(4-bromophenyl)ethyl]-1,3-oxazolidine-2,4-dione, obtained in step 3.1., 2.2 g (14.08 mmol) of 4-chlorophenylboronic acid and 6.5 g (28.16 mmol) of potassium phosphate hydrate in suspension in 100 ml of 1,2-dimethoxyethane. Subsequently 0.80 g (0.70 mmol) of palladium tetrakis(triphenylphosphine) is added. The reaction mixture is subsequently refluxed overnight. The salts are separated by filtration over Celite and then the filtrate is concentrated under reduced pressure. The residue is taken up in ethyl acetate and water. The organic phase is separated and is washed with saturated aqueous sodium chloride solution. The filtrate is concentrated under reduced pressure and the residue is purified by chromatography on silica gel, eluting with dichloromethane.

reactant | 3-[2-(4-bromophenyl)ethyl]-1,3-oxazolidine-2,4-dione | 7.04 mmol, 2 g | BrC1=CC=C(C=C1)CCN1C(OCC1=O)=O | C11H10BrNO3
reactant | 4-chlorophenylboronic acid | 14.08 mmol, 2.2 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | potassium phosphate hydrate | 28.16 mmol, 6.5 g | O.P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | 1,2-dimethoxyethane | 100 ml | COCCOC | C4H10O2
catalyst | palladium tetrakis(triphenylphosphine) | 0.70 mmol, 0.80 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | 3-[2-(4′-chloro-1,1′-biphenyl-4-yl)ethyl]-1,3-oxazolidine-2,4-dione | ClC1=CC=C(C=C1)C1=CC=C(C=C1)CCN1C(OCC1=O)=O | C17H14ClNO3
